datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([O:2][O:3])([C:4]([C:5]([H:13])([H:14])[H:15])([O:6][O:7][H:16])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([O:2][O:3][H:11])[C:4]([C:5]([H:13])([H:14])[H:15])([O:6][O:7][H:16])[H:12])([H:8])([H:9])[H:10],108.784
[C:0]([C:1]1([H:13])[C:2]([H:14])=[C:3]([H:15])[C:4]([H:16])=[C:5]2[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])[C:9]12[H:20])([H:10])([H:11])[H:12]>>[C:0]([C:1]1([H:13])[C:2]([H:14])=[C:3]([H:15])[C:4]([H:16])=[C:5]2[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])([H:20])[C:9]12)([H:10])([H:11])[H:12],109.2024
[Cl:3].[O:0]([H:1])[H:2]>>[H:1][Cl:3].[O:0][H:2],72.0865
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([S:12][H:18])[C:13](=[S:14])[H:19])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:11]([C:10]([H:15])([H:16])[H:17])([S:12][H:18])[C:13](=[S:14])[H:19],116.65
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13]>>[C:0]([C:1](=[C:2]([H:5])[H:6])[C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])([H:3])[H:4],53.7226
[C:0]([C:1]([C:2](=[O:3])[C:4]([C:5]([H:14])([H:15])[H:16])([O:6][O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2](=[O:3])[C:4]([C:5]([H:14])([H:15])[H:16])([O:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7][H:17],178.2384
[C:0]([H:1])([H:2])[H:3].[H:4][H:5]>>[C:0]([H:1])([H:2])([H:3])[H:5].[H:4],61.463
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:0]([S:1])([H:2])([H:3])[C:5]([C:4]([H:7])([H:8])[H:9])([C:6]([H:11])([H:12])[H:13])[H:10],-16.736
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21]([C:22]([H:25])([H:26])[H:27])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[C:21]([C:22]([H:25])([H:26])[H:27])([H:23])[H:24])[H:11],25.0622
[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:14])[H:18])([H:12])[H:13])([H:9])([H:10])[H:11],120.026408
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[H:23])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:18]([C:17]([H:20])([H:21])[H:22])([C:19]([H:24])([H:25])[H:26])[H:23])[H:7],12.2591
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[S:11][H:12]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][S:11][H:12],34.6
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10](=[C:11]([H:17])[H:18])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10](=[C:11]([H:17])[H:18])[H:16])[H:15],41.84
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:25])([H:26])[H:27])[H:24])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]1([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]([H:20])([H:21])[C:8]([H:22])([H:23])[C:9]1([C:10]([H:25])([H:26])[H:27])[H:24])[H:11],24.6438
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](#[C:12][C:13]=[C:14]([H:16])[H:17])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:13]([C:12]#[C:11][H:15])=[C:14]([H:16])[H:17],6.276
[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:11])[H:10].[H:12],167.577568
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13]([S:14][H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:18])[H:5].[C:12]([C:13]([S:14][H:20])[H:19])([H:15])([H:16])[H:17],41.84
